US06107291
To a solution of 3-Acetoxymethyl-1-(4-methoxy-benzenesulfonyl)-azepane-2-carboxylic acid tert-butyl ester (266 mg, 0.6 mmoL) in 1.5 mL dichloromethane at 0° C. was added 1.5 mL of trifluoroacetic acid. The reaction was gradually allowed to warm to ambient temperature, and the solvent was removed under reduced pressure after 1.4 hours. The residue was azeotroped twice with toluene and purified by column chromatography (silica: 30% ethyl acetate in hexanes with 1% acetic acid to 4% methanol in dichloromethane with 1% acetic acid) to yield 3-Acetoxymethyl-1-(4-methoxy-benzenesulfonyl)-azepane-2-carboxylic acid quantitatively; MS: (M+H)+ =386, (M+NH4)+ =403.

reactant | 3-Acetoxymethyl-1-(4-methoxy-benzenesulfonyl)-azepane-2-carboxylic acid tert-butyl ester | 266 mg | C(C)(C)(C)OC(=O)C1N(CCCCC1COC(C)=O)S(=O)(=O)C1=CC=C(C=C1)OC | C21H31NO7S
reactant | trifluoroacetic acid | 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 3-Acetoxymethyl-1-(4-methoxy-benzenesulfonyl)-azepane-2-carboxylic acid | C(C)(=O)OCC1C(N(CCCC1)S(=O)(=O)C1=CC=C(C=C1)OC)C(=O)O | C17H23NO7S
